US04260633
To a solution of 2.91 g (6.99 mmol) of (S)-α-cyano-3-phenoxybenzyl (R)-N-1-(1-naphthyl)ethylcarbamate in 30 ml of dry benzene under a nitrogen atmosphere is added 1.07 ml (0.78 g, 7.7 mmol) of triethylamine followed immediately by 0.75 ml (1.0 g, 7.4 mmol) of trichlorosilane. The reaction is heated at 50° for 3 hours and is then worked up and purified following the procedure of Example 4. The more polar band on the tlc plate is removed and extracted with trichloromethane to yield (S)-α-cyano-3-phenoxybenzyl alcohol, specific rotation [α]D25 =-14.6° (c=11 mg/ml in acetone).

reactant | (S)-α-cyano-3-phenoxybenzyl (R)-N-1-(1-naphthyl)ethylcarbamate | 6.99 mmol, 2.91 g | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC(O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)=O | C27H22N2O3
reactant | triethylamine | 7.7 mmol, 1.07 ml, 0.78 g | C(C)N(CC)CC | C6H15N
reactant | trichlorosilane | 7.4 mmol, 0.75 ml, 1.0 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | (S)-α-cyano-3-phenoxybenzyl alcohol | C(#N)[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
